*$
*//-----------------------------------------------------------------------//
*//   Part No. 	: EKZN101ELL391ML25S
*//   Date        	: 2024/03/26
*//   Version     	: 1.0
*//   Comment    	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZN101ELL391ML25S_20deg-C 1 2

C1 4 2 3.67e-04
C2 5 2 1.00e-10
C3 6 2 9.50e-06
C4 7 2 5.52e-06
R1 3 4 1.90e-02
R2 4 5 3.62e+01
R3 5 6 7.00e+01
R4 6 7 1.29e-09
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN101ELL391ML25S_-40deg-C 1 2

C1 4 2 9.68e-06
C2 5 2 1.00e-05
C3 6 2 1.95e-04
C4 7 2 1.48e-04
R1 3 4 2.13e-01
R2 4 5 1.54e-01
R3 5 6 1.60e-05
R4 6 7 5.24e-04
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKZN101ELL391ML25S_105deg-C 1 2

C1 4 2 3.91e-04
C2 5 2 9.49e-09
C3 6 2 2.73e-05
C4 7 2 1.67e-05
R1 3 4 1.20e-02
R2 4 5 1.90e-03
R3 5 6 1.31e+00
R4 6 7 4.35e+01
L1 1 3 8.00e-09

.ENDS

*$
