*$
*//-----------------------------------------------------------------------//
*//   Part        : EKZN6R3ELL183MMP1S
*//   Date        : 2023/12/28
*//   Version     : 1.0
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Element Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKZN6R3ELL183MMP1S_20deg-C_7 1 2

C1 4 2 1.76e-02
C2 5 2 3.08e-03
C3 6 2 4.83e-04
R1 3 4 1.05e-02
R2 4 5 1.21e-01
R3 5 6 5.68e-02
L1 1 3 8.00e-09

.ENDS

*$