*$
*//-----------------------------------------------------------------------//
*//   Part No.	: ELBV250ELL153AM40S
*//   Date        	: 2024/03/25
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELBV250ELL153AM40S_20deg-C 1 2

C1 4 2 1.39e-02
C2 5 2 3.43e-04
C3 6 2 5.39e-04
C4 7 2 1.37e-04
R1 3 4 1.04e-02
R2 4 5 2.04e-05
R3 5 6 9.21e+00
R4 6 7 1.31e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELBV250ELL153AM40S_-55deg-C 1 2

C1 4 2 1.85e-03
C2 5 2 2.15e-07
C3 6 2 1.53e-02
C4 7 2 1.04e+02
R1 3 4 4.37e-02
R2 4 5 6.04e-05
R3 5 6 2.94e-02
R4 6 7 8.59e+04
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELBV250ELL153AM40S_105deg-C 1 2

C1 4 2 9.09e-11
C2 5 2 1.13e-02
C3 6 2 3.86e-03
C4 7 2 6.04e-04
R1 3 4 5.86e-03
R2 4 5 1.31e-03
R3 5 6 7.95e-02
R4 6 7 1.70e+01
L1 1 3 8.00e-09

.ENDS

*$
