*$
*//-----------------------------------------------------------------------//
*//   Part No.	: ELBV350ELL562AM25S
*//   Date        	: 2024/04/10
*//   Version    	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELBV350ELL562AM25S_20deg-C 1 2

C1 4 2 4.55e-03
C2 5 2 1.99e-04
C3 6 2 1.25e-03
C4 7 2 9.82e-02
R1 3 4 1.50e-02
R2 4 5 1.76e-03
R3 5 6 2.18e-01
R4 6 7 1.51e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELBV350ELL562AM25S_-55deg-C 1 2

C1 4 2 6.95e-04
C2 5 2 2.25e-03
C3 6 2 5.59e-04
C4 7 2 2.14e-03
R1 3 4 6.43e-02
R2 4 5 1.82e-02
R3 5 6 4.63e-02
R4 6 7 4.67e-02
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELBV350ELL562AM25S_105deg-C 1 2

C1 4 2 4.13e-03
C2 5 2 2.01e-03
C3 6 2 1.42e-06
C4 7 2 3.24e-01
R1 3 4 1.02e-02
R2 4 5 8.54e-02
R3 5 6 3.93e+01
R4 6 7 2.17e+00
L1 1 3 8.00e-09

.ENDS

*$
