*$
*//-----------------------------------------------------------------------//
*//   Part No.	: ELBV350ELL902AMP1S
*//   Date       	: 2024/03/13
*//   Version    	: 1.0
*//   Comment	: 
*//   Simulator  	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELBV350ELL902AMP1S_20deg-C 1 2

C1 4 2 7.60e-03
C2 5 2 1.63e-03
C3 6 2 2.86e-04
C4 7 2 2.21e-05
R1 3 4 1.03e-02
R2 4 5 1.11e-01
R3 5 6 2.50e+01
R4 6 7 8.07e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELBV350ELL902AMP1S_-55deg-C 1 2

C1 4 2 1.12e-03
C2 5 2 3.43e-04
C3 6 2 6.40e-03
C4 7 2 5.78e-04
R1 3 4 4.11e-02
R2 4 5 1.46e-05
R3 5 6 1.52e-02
R4 6 7 9.16e-02
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELBV350ELL902AMP1S_105deg-C 1 2

C1 4 2 6.82e-03
C2 5 2 2.97e-03
C3 6 2 9.31e-03
C4 7 2 7.79e-05
R1 3 4 8.52e-03
R2 4 5 7.03e-02
R3 5 6 4.00e+01
R4 6 7 2.55e+00
L1 1 3 8.00e-09

.ENDS

*$
