*$
*//-----------------------------------------------------------------------//
*//   Part        : ELXZ250ELL681MJ20S
*//   Date        : 2023/01/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELXZ250ELL681MJ20S_20deg-C 1 2

C1 4 2 4.83e-06
C2 5 2 5.27e-04
C3 6 2 7.77e-05
R1 3 4 1.19e-05
R2 4 5 4.20e-02
R3 5 6 3.77e-01
L1 1 3 6.00e-09

.ENDS
*$