*$
*//-----------------------------------------------------------------------//
*//   Part No.	: ELZA160ELL332MK25S
*//   Date        	: 2024/03/14
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELZA160ELL332MK25S_20deg-C 1 2

C1 4 2 2.01e-05
C2 5 2 3.27e-03
C3 6 2 1.05e-04
C4 7 2 4.88e-03
R1 3 4 2.15e-02
R2 4 5 7.78e-07
R3 5 6 2.48e+00
R4 6 7 8.42e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELZA160ELL332MK25S_-55deg-C 1 2

C1 4 2 3.40e-04
C2 5 2 6.73e-05
C3 6 2 2.75e-03
C4 7 2 2.09e+02
R1 3 4 1.50e-01
R2 4 5 2.48e-02
R3 5 6 1.37e-02
R4 6 7 8.91e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELZA160ELL332MK25S_105deg-C 1 2

C1 4 2 2.50e-03
C2 5 2 1.08e-06
C3 6 2 1.06e-03
C4 7 2 3.51e+02
R1 3 4 1.58e-02
R2 4 5 5.15e-05
R3 5 6 4.67e-02
R4 6 7 1.02e+02
L1 1 3 8.00e-09

.ENDS

*$
