*$
*//-----------------------------------------------------------------------//
*//   Part No.	: ELZA350ELL102MK20S
*//   Date        	: 2024/03/26
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELZA350ELL102MK20S_20deg-C 1 2

C1 4 2 8.96e-04
C2 5 2 9.36e-05
C3 6 2 2.05e-05
C4 7 2 1.16e+02
R1 3 4 2.48e-02
R2 4 5 2.33e-01
R3 5 6 8.68e+01
R4 6 7 3.20e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELZA350ELL102MK20S_-55deg-C 1 2

C1 4 2 1.77e-04
C2 5 2 1.03e-04
C3 6 2 3.35e-04
C4 7 2 4.52e-04
R1 3 4 1.54e-01
R2 4 5 2.28e-02
R3 5 6 8.04e-02
R4 6 7 1.61e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELZA350ELL102MK20S_105deg-C 1 2

C1 4 2 8.73e-04
C2 5 2 1.84e-04
C3 6 2 3.81e-05
C4 7 2 1.57e-05
R1 3 4 1.80e-02
R2 4 5 1.66e-01
R3 5 6 6.28e+01
R4 6 7 2.77e+02
L1 1 3 8.00e-09

.ENDS

*$
