*$
*//-----------------------------------------------------------------------//
*//   Part No.	: ELZA6R3ELL152MJC5S
*//   Date        	: 2024/04/10
*//   Version     	: 1.0
*//   Comment     	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELZA6R3ELL152MJC5S_20deg-C 1 2

C1 4 2 3.78e-04
C2 5 2 8.26e-04
C3 6 2 8.14e-05
C4 7 2 1.81e+01
R1 3 4 4.71e-02
R2 4 5 1.56e-02
R3 5 6 5.71e-01
R4 6 7 6.34e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELZA6R3ELL152MJC5S_-55deg-C 1 2

C1 4 2 5.54e-06
C2 5 2 3.53e-05
C3 6 2 1.30e-04
C4 7 2 9.88e-04
R1 3 4 5.64e-01
R2 4 5 7.85e-02
R3 5 6 1.87e-04
R4 6 7 1.93e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT ELZA6R3ELL152MJC5S_105deg-C 1 2

C1 4 2 8.06e-04
C2 5 2 5.76e-04
C3 6 2 4.21e+02
C4 7 2 3.11e+00
R1 3 4 2.38e-02
R2 4 5 1.84e-02
R3 5 6 2.45e+01
R4 6 7 1.88e+02
L1 1 3 8.00e-09

.ENDS

*$
