*$
*//-----------------------------------------------------------------------//
*//   Part No.    : LESM050010P1BV0E
*//   Date        : 2018/02/08
*//   Temperature : 20deg.C
*//   DC-Current  : 0A, 35A, 50A
*//   Model       : RL 5 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT LESM050010P1BV0E_DC_0A 1 2

R1 1 3 4.00e-04	
R2 3 2 2.30e+02
R3 4 2 1.70e+02	
L1 3 2 2.40e-06	
L2 3 4 2.40e-06	

.ENDS

.SUBCKT LESM050010P1BV0E_DC_35A 1 2

R1 1 3 4.00e-04	
R2 3 2 2.00e+02	
R3 4 2 1.50e+02	
L1 3 2 1.90e-06
L2 3 4 1.90e-06	

.ENDS

.SUBCKT LESM050010P1BV0E_DC_50A 1 2

R1 1 3 4.00e-04	
R2 3 2 1.50e+02	
R3 4 2 1.00e+02	
L1 3 2 1.30e-06	
L2 3 4 1.30e-06	

.ENDS

*$
