*$
*//-----------------------------------------------------------------------//
*//   Part No.    : LESM0301R5P2DV0E
*//   Date        : 2018/02/08
*//   Temperature : 20deg.C
*//   DC-Current  : 0A, 21A, 30A
*//   Model       : RL 5 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT LESM0301R5P2DV0E_DC_0A 1 2

R1 1 3 3.60e-04	
R2 3 2 4.80e+01	
R3 4 2 3.50e+01	
L1 3 2 2.30e-06	
L2 3 4 2.30e-06	

.ENDS

.SUBCKT LESM0301R5P2DV0E_DC_21A 1 2

R1 1 3 3.60e-04	
R2 3 2 3.50e+01	
R3 4 2 2.00e+01	
L1 3 2 2.00e-06	
L2 3 4 2.00e-06	

.ENDS

.SUBCKT LESM0301R5P2DV0E_DC_30A 1 2

R1 1 3 3.60e-04	
R2 3 2 2.60e+01	
R3 4 2 2.00e+01	
L1 3 2 1.40e-06	
L2 3 4 1.40e-06	

.ENDS

*$
