*$
*//-----------------------------------------------------------------------//
*//   Part No.    : LESM0400R9P5DV0E
*//   Date        : 2018/05/25
*//   Temperature : 20deg.C
*//   DC-Current  : 0A, 28A, 40A
*//   Model       : RL 5 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT LESM0400R9P5DV0E_DC_0A 1 2

R1 1 3 3.60e-04	
R2 3 2 2.00e+02	
R3 4 2 1.00e+02	
L1 3 2 1.60e-06	
L2 3 4 1.60e-06	

.ENDS

.SUBCKT LESM0400R9P5DV0E_DC_28A 1 2

R1 1 3 3.60e-04	
R2 3 2 2.00e+02	
R3 4 2 1.00e+02	
L1 3 2 1.50e-06	
L2 3 4 1.50e-06	

.ENDS

.SUBCKT LESM0400R9P5DV0E_DC_40A 1 2

R1 1 3 3.60e-04	
R2 3 2 2.00e+02	
R3 4 2 1.00e+02	
L1 3 2 1.00e-06	
L2 3 4 1.00e-06	

.ENDS

*$
