*****************************************************************
* NXP BUK7K12-60E
*
* Polarity N-Channel
* Ratings 60V/9.300000E-003OHMS/40A
*
* Date Created Tue Jul 02 05:20:59 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K12-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 1200000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00595192144135661 TC=0.00680131018767089,2.71855348173848E-05
RBD 9 4 0.00126279037338284 TC=0.00680131018767089,2.71855348173848E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 1.488e-09
RG 1 2 1.35036

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1660.08
+ -10	1658.54
+ -8	1656.1
+ -6	1650.87
+ -5	1642.8
+ -4	1617.59
+ -3	1635.5
+ -2	1401.28
+ -1	1179.87
+ -0.5	1054.43
+ -0.2	972.172
+ -0.1	969.846
+ 0	779.50148
+ 0.1	494.9402
+ 0.2	494.28232
+ 0.5	410.12832
+ 1	349.05676
+ 2	279.81232
+ 3	247.42064
+ 4	229.3184
+ 5	217.69272
+ 6	209.4942
+ 8	198.06868
+ 10	189.83256
+ 12	183.1408
+ 15	174.77656
+ 16	172.19896
+ 20	163.68768
+ 25	155.22512
+ 30	148.75068
+ 40	139.83544



.MODEL MINT NMOS(Vto=3.90984745894487 Kp=1.023435e+002 Nfs=1000000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=2.22912034238331e-12
+ N=1 M=0.63 VJ=0.5 Fc=0.5 Cjo=9.7868964e-10 Tt=1.5272e-08)

.ENDS

