*****************************************************************
* NXP BUK7K17-60E
*
* Polarity N-Channel
* Ratings 60V/1.400000E-002OHMS/30A
*
* Date Created Tue Jul 02 05:43:41 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K17-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00784168363155313 TC=0.00691592171125723,2.99605446702097E-05
RBD 9 4 0.00134103828792961 TC=0.00691592171125723,2.99605446702097E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 9.95e-10
RG 1 2 1.45716

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1226.97
+ -10	1225.8
+ -8	1223.91
+ -6	1219.24
+ -5	1207.97
+ -4	1269.09
+ -3	1154.66
+ -2	994.709
+ -1	804.775
+ -0.5	643.341
+ -0.2	514.425
+ -0.1	510.877
+ 0	420.56624
+ 0.1	322.87084
+ 0.2	322.49144
+ 0.5	275.33648
+ 1	242.36
+ 2	203.51728
+ 3	183.4264
+ 4	170.98292
+ 5	162.27992
+ 6	155.84396
+ 8	146.6032
+ 10	139.88332
+ 12	134.4856
+ 15	127.93556
+ 16	125.96
+ 20	119.61548
+ 25	113.4062
+ 30	108.67364
+ 40	102.20269



.MODEL MINT NMOS(Vto=4.22012449596822 Kp=5.548393e+001 Nfs=1530000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.08050123350293e-12
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=5.3554908e-10 Tt=1.6016e-08)

.ENDS

