*****************************************************************
* NXP BUK7K18-40E
*
* Polarity N-Channel
* Ratings 40V/1.900000E-002OHMS/30A
*
* Date Created Mon Jul 01 02:18:26 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K18-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00634228987030482 TC=0.00588042930205911,2.06652982233374E-05
RBD 9 4 0.0021509503232097 TC=0.00588042930205911,2.06652982233374E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 5.15530471434703e-10
RG 1 2 1.86008

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	502.276
+ -10	501.871
+ -8	501.247
+ -6	499.531
+ -5	496.696
+ -4	579.999
+ -3	519.032
+ -2	438.038
+ -1	362.642
+ -0.5	317.059
+ -0.2	285.903
+ -0.1	285.011
+ 0	259.19518
+ 0.1	213.27688
+ 0.2	213.04504
+ 0.5	177.232
+ 1	153.0554
+ 2	133.81568
+ 3	123.983
+ 4	117.63576
+ 5	112.96372
+ 6	109.31336
+ 8	104.02945
+ 10	100.36631
+ 12	97.60822
+ 15	94.42375
+ 16	93.47519
+ 20	90.3191
+ 25	87.0383
+ 32	83.48654



.MODEL MINT NMOS(Vto=4.48473706874561 Kp=1.891139e+001 Nfs=2110000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.94061520008456e-13
+ N=1 M=0.58 VJ=0.5 Fc=0.5 Cjo=4.041084e-10 Tt=9.248e-09)

.ENDS

