*****************************************************************
* NXP BUK7K35-60E
*
* Polarity N-Channel
* Ratings 60V/3.000000E-002OHMS/23.7417867624246A
*
* Date Created Tue Jul 02 06:05:24 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K35-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 3000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0190115932316043 TC=0.00648519599775427,2.65777949903915E-05
RBD 9 4 0.00249786062468143 TC=0.00648519599775427,2.65777949903915E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 5.09e-10
RG 1 2 1.98364

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	589.716
+ -10	589.23
+ -8	588.447
+ -6	586.642
+ -5	582.313
+ -4	630.956
+ -3	569.2
+ -2	475.558
+ -1	384.834
+ -0.5	317.947
+ -0.2	264.621
+ -0.1	263.038
+ 0	219.12478
+ 0.1	171.98136
+ 0.2	171.8078
+ 0.5	150.06188
+ 1	133.65984
+ 2	113.78356
+ 3	103.55334
+ 4	97.19911
+ 5	92.75024
+ 6	89.44924
+ 8	84.69878
+ 10	81.24137
+ 12	78.44928
+ 15	75.01372
+ 16	73.97014
+ 20	70.55451
+ 25	67.14077
+ 30	64.48337
+ 40	60.70798



.MODEL MINT NMOS(Vto=4.40703729264171 Kp=3.026166e+001 Nfs=1790000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=4.24952200485594e-13
+ N=1 M=0.57 VJ=0.5 Fc=0.5 Cjo=2.6659636e-10 Tt=1.2776e-08)

.ENDS

